US08895588B2
ethyl 1-(2-fluoropyridin-3-yl)-5-{[(trifluoromethyl)sulfonyl]oxy}-1H-pyrazole-3-carboxylate
To a solution of ethyl 1-(2-fluoropyridin-3-yl)-5-hydroxy-1H-pyrazole-3-carboxylate (2.0 g) in tetrahydrofuran (20 mL) were added triethylamine (966 mg) and N-phenylbis(trifluoromethanesulfonimide) (3.1 g). After stirring at room temperature for 15 min, water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent:hexane-ethyl acetate=19:1→9:1) to give the title compound as a yellow oil (yield 2.1 g, yield 70%).

reactant | ethyl 1-(2-fluoropyridin-3-yl)-5-hydroxy-1H-pyrazole-3-carboxylate | 2.0 g | FC1=NC=CC=C1N1N=C(C=C1O)C(=O)OCC | C11H10FN3O3
reactant | triethylamine | 966 mg | C(C)N(CC)CC | C6H15N
reactant | N-phenylbis(trifluoromethanesulfonimide) | 3.1 g | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
reactant | water | O | H2O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | ethyl 1-(2-fluoropyridin-3-yl)-5-{[(trifluoromethyl)sulfonyl]oxy}-1H-pyrazole-3-carboxylate | yield 2.1 g, yield 70% | FC1=NC=CC=C1N1N=C(C=C1OS(=O)(=O)C(F)(F)F)C(=O)OCC | C12H9F4N3O5S
